US05665718
328 mg (1.0 mmol) of 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-fluoro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 6 ml of methylene chloride were treated under argon with 1.2 ml (7.0 mmol) of N-ethyldiisopropylamine and 0.65 ml (6.0 mmol) of propargyl bromide (80% in toluene) and the mixture was stirred at room temperature under argon for 19 hrs. The solution was washed with 10 ml of water and evaporated, and the crude product was purified by chromatography on 15 g of silica gel (methylene chloride/acetone 9:1). The eluate was evaporated and the residue was taken up in 5 ml of methanol. The solution was acidified with 5 ml of ethereal hydrochloric acid and the white crystals were filtered off. There were obtained 200 mg (45%) of 3-[3-[bis-(prop-2-ynyl)-aminomethyl]-1,2,4-oxadiazol-5-yl]-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride (4:5) of m.p. 186°-189° (dec.).

reactant | 3-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-fluoro-5,6-dihydro-5-methyl-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.0 mmol, 328 mg | NCC1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C15H13FN6O2
reactant | N-ethyldiisopropylamine | 7.0 mmol, 1.2 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | propargyl bromide | 6.0 mmol, 0.65 ml | C(C#C)Br | C3H3Br
reactant | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 3-[3-[bis-(prop-2-ynyl)-aminomethyl]-1,2,4-oxadiazol-5-yl]-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 200 mg, 45% | Cl.C(C#C)C(C1=NOC(=N1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C)(N)CC#C | InChI=1S/C21H17FN6O2.ClH/c1-4-8-21(23,9-5-2)20-25-18(30-26-20)17-16-11-27(3)19(29)14-10-13(22)6-7-15(14)28(16)12-24-17;/h1-2,6-7,10,12H,8-9,11,23H2,3H3;1H
